US06858651B2
To 350 mg (1 mmol) trans-4-Bromo-N-(4-hydroxy-cyclohexyl)-N-methyl-benzenesulfonamide in 6 ml toluene was added 344 mg (2.0 mmol) 2-diethylamino-ethylchlorid.hydrochloride and a catalytic amount of Bu4NHSO4 followed by 4 ml 50% NaOH. The mixture was stirred at RT over night, the phases were separated and the organic phase dried over Na2SO4. Column chromatography on silica gel with CH2Cl2/MeOH 15:1 yielded 380 mg (84%) trans-4-Bromo-N-[4-(2-diethylamino-ethoxy)-cyclohexyl]-N-methyl-benzenesulfonamide as light yellow oil, MS: 447 (MH+, 1Br).

reactant | trans-4-Bromo-N-(4-hydroxy-cyclohexyl)-N-methyl-benzenesulfonamide | 1 mmol, 350 mg | BrC1=CC=C(C=C1)S(=O)(=O)N(C)[C@@H]1CC[C@H](CC1)O | C13H18BrNO3S
reactant | 2-diethylamino-ethylchlorid.hydrochloride | 2.0 mmol, 344 mg | Cl.C(C)N(CCCl)CC
reactant | NaOH | 4 ml | [OH-].[Na+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Bu4NHSO4 | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
product | trans-4-Bromo-N-[4-(2-diethylamino-ethoxy)-cyclohexyl]-N-methyl-benzenesulfonamide | 380 mg, 84% | BrC1=CC=C(C=C1)S(=O)(=O)N(C)[C@@H]1CC[C@H](CC1)OCCN(CC)CC | C19H31BrN2O3S
